US07323466B2
b) (R)-2-(3-Hydroxymethyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester
The solution of 0.48 g (1.6 mmol) (R)-2-(3-formyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester in 5 mL methanol was treated with 36 mg (0.95 mmol) sodium borohydride. After 2 h the reaction was diluted with ethyl acetate and extracted with 10% aqueous sodium bicarbonate solution and brine. The organic layer was dried over magnesium sulfate, filtered and evaporated. Chromatography of the remaining residue on silica gel with n-hexane:ethyl acetate (1:1 v/v) gave the desired compound in form of a colorless oil (87%).

reactant | (R)-2-(3-formyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 1.6 mmol, 0.48 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=CC=C1)C=O | C17H23NO4
reactant | sodium borohydride | 0.95 mmol, 36 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(3-Hydroxymethyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=CC=C1)CO | C17H25NO4
